US05093328
To a solution of (2S,4R)-1-benzyloxycarbonyl-2-methylsulfonyloxymethyl-4-t-butyldimethylsilyloxypyrrolidine (108.5 g) in methylethylketone (1100 ml), potassium iodide (73.5 g) was added, and the resultant mixture was refluxed for 3 hours. The reaction mixture was filtered, and the filtrate was concentrated to remove the solvent. The residue was diluted with ethyl acetate, washed with aqueous sodium chloride solution, aqueous sodium hypochlorite solution and aqueous sodium chloride solution in order and dried over magnesium sulfate. Removal of the solvent gave (2S,4R)-1-benzyloxycarbonyl-2-iodomethyl-4-t-butyldimethylsilyloxypyrrolidine.

reactant | (2S,4R)-1-benzyloxycarbonyl-2-methylsulfonyloxymethyl-4-t-butyldimethylsilyloxypyrrolidine | 108.5 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)COS(=O)(=O)C | C20H33NO6SSi
reactant | potassium iodide | 73.5 g | [I-].[K+]
solvent | methylethylketone | 1100 ml | CC(=O)CC | C4H8O
product | (2S,4R)-1-benzyloxycarbonyl-2-iodomethyl-4-t-butyldimethylsilyloxypyrrolidine | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CI | C19H30INO3Si
